US08703795B2
a) [2-(4-Methoxy-phenyl)-4,6-dioxo-3a,4,6,6a-tetrahydro-thieno[2,3-c]pyrrol-5-yl]-acetic acid ethyl ester
Under a nitrogen atmosphere, (2-bromo-4,6-dioxo-3a,4,6,6a-tetrahydro-thieno[2,3-c]pyrrol-5-yl)-acetic acid ethyl ester, example 1-d (431 mg, 1.35 mmol), 4-methoxy-phenyl boronic acid (309 mg, 2.0 mmol), cesium carbonate (1.10 g, 3.4 mmol), and tetrakis(triphenylphosphine)palladium(0) (157 mg, 0.14 mmol) were suspended in 8 mL of ethylene glycol dimethyl ether. The reaction mixture was heated at reflux temperature for 5 hours, cooled to room temperature, and diluted with ethyl acetate. The organic mixture was successively washed with saturated sodium bicarbonate and brine solutions. The organic fractions were dried over anhydrous sodium sulfate and concentrated to a crude solid residue, which was then purified by column chromatography, eluting the title compound from silica gel with a gradient of (5-30%) ethyl acetate in hexanes to yield 197 mg of a white solid. MS: (+) m/z 348.05 (M+1).

reactant | (2-bromo-4,6-dioxo-3a,4,6,6a-tetrahydro-thieno[2,3-c]pyrrol-5-yl)-acetic acid ethyl ester | C(C)OC(CN1C(C2C(C1=O)C=C(S2)Br)=O)=O | C10H10BrNO4S
reactant | 4-methoxy-phenyl boronic acid | 2.0 mmol, 309 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | cesium carbonate | 3.4 mmol, 1.10 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethylene glycol dimethyl ether | 8 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.14 mmol, 157 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [2-(4-Methoxy-phenyl)-4,6-dioxo-3a,4,6,6a-tetrahydro-thieno[2,3-c]pyrrol-5-yl]-acetic acid ethyl ester | 197 mg | C(C)OC(CN1C(C2C(C1=O)C=C(S2)C2=CC=C(C=C2)OC)=O)=O | C17H17NO5S
